US07691882B2
3-(3-(4-(4-Fluoro-phenoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (5.00 mL) solution of (4-(4-fluoro-phenoxy)-phenyl)-acetohydroximoyl chloride (290 mg, 1.04 mmol) described in Manufacturing Example 141-1-3 and 3-ethynyl-pyridine-2,6-diamine (40.0 mg, 0.300 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (105 μL, 0.750 mmol) under nitrogen atmosphere at room temperature, which was stirred for 16 hours at room temperature. Water was added at room temperature to the reaction solution at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=3:1→ethyl acetate) to obtain the title compound (38.1 mg, 33.7%).

reactant | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
reactant | (4-(4-fluoro-phenoxy)-phenyl)-acetohydroximoyl chloride | 1.04 mmol, 290 mg | FC1=CC=C(OC2=CC=C(C=C2)CC(=NO)Cl)C=C1 | C14H11ClFNO2
reactant | 3-ethynyl-pyridine-2,6-diamine | 0.300 mmol, 40.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.750 mmol, 105 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(4-(4-Fluoro-phenoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 38.1 mg, 33.7% | FC1=CC=C(OC2=CC=C(CC3=NOC(=C3)C=3C(=NC(=CC3)N)N)C=C2)C=C1 | C21H17FN4O2
